US09226922B2
A solution of methyl 4,6-dichloro-2-(trifluoromethyl)nicotinate (535.9 mg, 1.956 mmol) in DMF (2 ml) was charged with hydrazine hydrate (190 μL, 3.92 mmol) and heated to 150° C. for 30 min under microwave irradiation. Concentrated in vacuo and washed residue with DCM. Purified via flash chromatography (0-20% MeOH/DCM) to provide 6-chloro-4-(trifluoromethyl)-1H-pyrazolo[4,3-c]pyridin-3(2H)-one MS: [M+H]+ m/z 238.

reactant | methyl 4,6-dichloro-2-(trifluoromethyl)nicotinate | 1.956 mmol, 535.9 mg | ClC1=CC(=NC(=C1C(=O)OC)C(F)(F)F)Cl | C8H4Cl2F3NO2
reactant | hydrazine hydrate | 3.92 mmol, 190 μL | O.NN
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-chloro-4-(trifluoromethyl)-1H-pyrazolo[4,3-c]pyridin-3(2H)-one | ClC1=CC2=C(C(=N1)C(F)(F)F)C(NN2)=O | C7H3ClF3N3O
